US05763450
16ar) A suspension of 0.33 g of 1-cyclohexyl-7-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-6,8-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid hydrochloride (Example 16aq)) in 5 ml of methanol is treated with 2 ml of 28% aqueous sodium hydroxide solution and held at reflux for 5 hrs. The beige suspension is cooled to room temperature and acidified with 25% aqueous hydrochloric acid. The precipitated substance is filtered off under suction, washed with 10 ml of water, 10 ml of ethanol and 10 ml of ether and dried. 0.264 g (78%) of 1-cyclohexyl-7-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3- dimethoxy-phenylethynyl]-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid hydrochloride is obtained as a beige solid. Yield: 78%. M.p.>205° (dec.). Mass spectrum (FAB): peaks inter alia at 602 (M++H, 100%), 588 (10%), 520 (7%).

reactant | 1-cyclohexyl-7-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-6,8-difluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid hydrochloride | 0.33 g | Cl.C1(CCCCC1)N1C=C(C(C2=CC(=C(C(=C12)F)C#CC1=C(C(=CC(=C1)CC=1C(=NC(=NC1)N)N)OC)OC)F)=O)C(=O)O
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | 1-cyclohexyl-7-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3- dimethoxy-phenylethynyl]-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid hydrochloride | 0.264 g, 78% | Cl.C1(CCCCC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C#CC1=C(C(=CC(=C1)CC=1C(=NC(=NC1)N)N)OC)OC)F)=O)C(=O)O | InChI=1S/C32H32FN5O6.ClH/c1-42-25-13-17(12-19-15-36-32(35)37-30(19)34)11-18(28(25)43-2)9-10-21-24(33)14-22-26(29(21)44-3)38(20-7-5-4-6-8-20)16-23(27(22)39)31(40)41;/h11,13-16,20H,4-8,12H2,1-3H3,(H,40,41)(H4,34,35,36,37);1H
